US08283366B2
6.6 g of (4-fluorophenyl)(2,2,8-trimethyl-4H-[1,3]dioxino[4,5-c]pyridin-5-yl)methanol was dissolved with heat in 150 mL of CHCl3. 12 g of MnO2 was added to this solution and the suspension was refluxed for 2 h. The MnO2 was then filtered over a 1 cm pad of silica gel and the clear organic phase evaporated to yield pure (3-Chloro-4-fluorophenyl)(2,2,8-trimethyl-4H-[1,3]dioxino[4,5-c]pyridin-5-yl)methanone.

reactant | (4-fluorophenyl)(2,2,8-trimethyl-4H-[1,3]dioxino[4,5-c]pyridin-5-yl)methanol | 6.6 g | FC1=CC=C(C=C1)C(O)C1=C2C(=C(N=C1)C)OC(OC2)(C)C | C17H18FNO3
reactant | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 12 g | O=[Mn]=O
product | (3-Chloro-4-fluorophenyl)(2,2,8-trimethyl-4H-[1,3]dioxino[4,5-c]pyridin-5-yl)methanone | ClC=1C=C(C=CC1F)C(=O)C1=C2C(=C(N=C1)C)OC(OC2)(C)C | C17H15ClFNO3
